US05707991
The reaction is carried out in a way analogous to that described in Example 2B, but from 1 g of tert-butyl (2RS,4RS,5SR)-4-cyano-5-phenylpyrrolidine-2-carboxylate, 0.76 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 0.76 g of N,N'-dicyclohexylcarbodiimide in 50 cm3 of acetonitrile. After treatment, there are obtained 1.2 g of tert-butyl (2RS,4RS,5SR)-4-cyano-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate, melting at 150° C.

reactant | tert-butyl (2RS,4RS,5SR)-4-cyano-5-phenylpyrrolidine-2-carboxylate | 1 g | C(#N)C1CC(NC1C1=CC=CC=C1)C(=O)OC(C)(C)C | C16H20N2O2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 0.76 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | N,N'-dicyclohexylcarbodiimide | 0.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 50 cm3 | C(C)#N | C2H3N
product | tert-butyl (2RS,4RS,5SR)-4-cyano-1-{2-[3-(3-methylphenyl)ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate | 1.2 g | C(#N)C1CC(N(C1C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C)=O)C(=O)OC(C)(C)C | C26H30N4O4
